US06127361
Sixty-percent sodium hydride (520 mg, 13 mmols) was washed with petroleum ether, and then suspended in 55 ml of dimethyl sulfoxide. To the suspension were added 2.0 g (10 mmols) of 5,11-dihydrodibenzo[b,e][1,4]oxazepine. The mixture was stirred in a nitrogen atmosphere at room temperature for 40 minutes. To this reaction solution was added dropwise a solution of 3.1 g (12 mmols) of (S)-(+)-3-chloro-1-(4-methoxyphenethyl)piperidine [[α]D25 =+10.1° (c=1.2, ethanol)] in 10 ml of dimethyl sulfoxide, and the mixed solution was stirred at room temperature for 14 hours and at 40° C. for 6 hours. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water and with a saturated aqueous solution of sodium chloride in this order, and dried. Subsequently, the solvent was distilled off under reduced pressure. The resulting residue was subjected to column chromatography, and eluted with a mixed solvent of ethyl acetate and hexane at a ratio of 1:2. This mixed solvent was distilled off under reduced pressure to give 2.9 g of (R)-(+)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine as a pale yellow oil in a yield of 70%.

reactant | sodium hydride | 13 mmols, 520 mg | [H-].[Na+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | 10 mmols, 2.0 g | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (S)-(+)-3-chloro-1-(4-methoxyphenethyl)piperidine | 12 mmols, 3.1 g | Cl[C@@H]1CN(CCC1)CCC1=CC=C(C=C1)OC | C14H20ClNO
solvent | dimethyl sulfoxide | 55 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (R)-(+)-5,11-dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]oxazepine | 2.9 g, yield of 70% | COC1=CC=C(CCN2[C@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H30N2O2
